US06498191B2
To a solution of 123 mg (0.75 mmole) of 4-allyl-2-methoxyphenol (eugenol) and 1.4 gm (7.5 mmole)of p-toluenesulfonhydrazide in 15 ml of dimethoxyethane under reflux was added a solution of 1.7 gm of NaOAc in 15 ml water over a 4 hour period. The mixture was cooled to room temperature, poured into 20 ml of water, and extracted three times with 30 ml of CH2Cl2. The combined organic layers were washed with 50 ml of water, dried over MgSO4, and concentrated under vacuo. The resulting solid was flash chromatographed over silica gel using 10% ethyl acetate in hexane to afford 60 mg of 2-methoxy-4-propylphenol in 48% yield.

reactant | 4-allyl-2-methoxyphenol | 0.75 mmole, 123 mg | C(C=C)C1=CC(=C(C=C1)O)OC | C10H12O2
reactant | p-toluenesulfonhydrazide | 7.5 mmole, 1.4 gm | C1(=CC=C(C=C1)S(=O)(=O)NN)C | C7H10N2O2S
reactant | NaOAc | 1.7 gm | CC(=O)[O-].[Na+]
solvent | dimethoxyethane | 15 ml | C(OC)COC | C4H10O2
solvent | water | 15 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 2-methoxy-4-propylphenol | 60 mg, 48% yield | COC1=C(C=CC(=C1)CCC)O | C10H14O2
